US06794400B2
4-(2,4-Dimethylphenyl)-1-(4-chlorobenzoyl)semicarbazide
The title compound was prepared from a mixture 2,4-dimethylphenylisocyanate (50 mg, 34 mmol) and 4-chlorobenzoic acid hydrazide (63 mg, 37 mmol) in methylenedichloride (10 ml). The mixture was stirred at room temperature for 2 h and the resultant precipitate was collected by filtration and isolated as pale white solid (90 mg, 89%). 1H NMR (DMSO-d6): 10.39 (s, 1H), 8.34 (s, 1H), 8.05 (s, 1H), 7.94 (d, J=6.6 Hz, 1H), 7.57 (d, J=6.6 Hz, 1H), 7.44 (d, J=7.5 Hz, 1H), 6.96 (s, 1H), 6.92 (d, J=7.5 Hz, 1H), 2.72 (s, 3H), 2.22 (s, 3H), 2.16 (s, 3H).

reactant | 2,4-dimethylphenylisocyanate | 34 mmol, 50 mg | CC1=C(C=CC(=C1)C)N=C=O | C9H9NO
reactant | 4-chlorobenzoic acid hydrazide | 37 mmol, 63 mg | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
solvent | methylenedichloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(2,4-Dimethylphenyl)-1-(4-chlorobenzoyl)semicarbazide | CC1=C(C=CC(=C1)C)NC(NNC(C1=CC=C(C=C1)Cl)=O)=O | C16H16ClN3O2
